US07491713B2
N-[(3R,7R)-1-(cyclopropylmethyl)-2-oxo-7-phenylazepan-3-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide
Diisopropylethylamine (0.020 mL, 0.11 mmol) and phosgene (0.06 mL, 0.56 mmol) were added to a solution of 4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidinium chloride (27 mg, 0.111 mmol) in dichloromethane (1 mL) at 0° C. After 30 min, the mixture was concentrated in vacuo and azeotroped with dichloromethane (2×) to give the crude amine. Diisopropylethylamine (0.04 ml, 0.22 mmol) was added to a solution of the crude amine and (3R,7R)-3-amino-1-(cyclopropylmethyl)-7-phenylazepan-2-one (28.7 mg, 0.11 mmol) in dichloromethane (1 mL) and the mixture heated to reflux. After 15 min, the mixture was concentrated and purified by silica gel chromatography (1% methanol/dichloromethane—5% methanol/dichloromethane) gave the title compound (38 mg). MS 528.3 (M+1).

reactant | Diisopropylethylamine | 0.11 mmol, 0.020 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | 0.56 mmol, 0.06 mL | C(=O)(Cl)Cl | CCl2O
reactant | 4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidinium chloride | 0.111 mmol, 27 mg | [Cl-].O=C1N(C=C(N1)C1=CC=CC=C1)C1CC[NH2+]CC1
reactant | Diisopropylethylamine | 0.22 mmol, 0.04 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (3R,7R)-3-amino-1-(cyclopropylmethyl)-7-phenylazepan-2-one | 0.11 mmol, 28.7 mg | N[C@H]1C(N([C@H](CCC1)C1=CC=CC=C1)CC1CC1)=O | C16H22N2O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-[(3R,7R)-1-(cyclopropylmethyl)-2-oxo-7-phenylazepan-3-yl]-4-(2-oxo-4-phenyl-2,3-dihydro-1H-imidazol-1-yl)piperidine-1-carboxamide | 38 mg | C1(CC1)CN1C([C@@H](CCC[C@@H]1C1=CC=CC=C1)NC(=O)N1CCC(CC1)N1C(NC(=C1)C1=CC=CC=C1)=O)=O | C31H37N5O3
